Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2].[O:3]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.227357801
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]1[O:5][C:6]1([H:7])[H:8],-1.37651620389
[O:1][C@:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],0.509124389649
[O:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],2.65265197977
[H:11].[H:1][C:2]([H:3])/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.52933927988
[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C:8]1([H:9])[H:10]>>[H:1][O:2][C:3][C:8]([C:5]([O:4])([H:6])[H:7])([H:9])[H:10],2.2888263589
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11],-1.50382550614
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][C:2],8.68123239005
[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-7.78809028109
[C:2]#[C:4][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:6]([H:3])=[C:5]>>[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.84310869235
[C:11]([H:12])[H:13].[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.72960806564
[H:14].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.29574416403
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],8.53338489767
[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:9]([H:10])[H:11],-0.18822499993
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.75039786613
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],6.05206006997
[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]=[C:4]=[C:5]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6],3.59037954378
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7]([H:8])([H:9])[H:10],4.24640039742
[H:1][O:2][C:3]([H:4])([H:5])[H:6]>>[C:3]([H:4])([H:5])[H:6].[H:1][O:2],5.398151085449999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],3.82046350212
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],4.3052600129300025
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-4.66352143475
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:3][H:4],6.07064701926
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1].[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10],6.814675717180001
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.76618796958
[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.66762746459
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],1.93870170206
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([H:3])[C@:4]([H:5])([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[H:17],3.94828096706
[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14],1.75033974127
